US03932404
Preparation of 2-cyano-3-amino-5-phenyl-6-methyl-pyrazine
A reactor provided with a stirring device, a bromine feed and a calcium chloride tube is filled with 1.42 parts of 1,1-dicyano-3-methyl-4-morpholino-4-phenyl-2-aza-1,3-butadiene in 20 parts by volume of dry methylene chloride. 0.34 parts by weight of ammonia in the form of a methanolic solution are added at -30°C. over a period of 4 days. After evaporation of the solvents in vacuo and recrystallisation of the crude product from methanol, 0.95 parts of 2-cyano-3-amino-5-phenyl-6-methyl-pyrazine are obtained in a field of 91% with respect to the starting azadiene.

reactant | bromine | BrBr | Br2
reactant | 1,1-dicyano-3-methyl-4-morpholino-4-phenyl-2-aza-1,3-butadiene | C(#N)C(=NC(=C(C1=CC=CC=C1)N1CCOCC1)C)C#N | C16H16N4O
reactant | ammonia | N | H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-cyano-3-amino-5-phenyl-6-methyl-pyrazine | C(#N)C1=NC(=C(N=C1N)C1=CC=CC=C1)C | C12H10N4
